US04804394
Fuming (α 1.52) nitric acid (1.3 ml) is added dropwise to 0° C. to acetic anhydride (11.3 g), and thereafter a catalytic amount of concentrated sulfuric acid is added. To the solution is added portionwise at 0° C. 4-cyanomethyl-2H-1,4-benzoxazin-3(4H)-one (1.88 g). The mixture is stirred at 0° C. for 20 minutes, treated dropwise with a cold solution which is made by dissolving sodium hydroxide (10 g) in water (87.5 ml) and cooled to 0° C., stirred at 0° C. for 30 minutes to finish the reaction, and extracted with methyl isobutyl kotone. The extract is washed with water, dried, and evaporated. The resultant solid is recrystallized from ethanol to obtain an end product 4-cyanomethyl-6-nitro-2H-1,4-benzoxazin-3(4H)-one (1.3 g). mp. 173° C.

reactant | nitric acid | 1.3 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 11.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4-cyanomethyl-2H-1,4-benzoxazin-3(4H)-one | 1.88 g | C(#N)CN1C(COC2=C1C=CC=C2)=O | C10H8N2O2
reactant | sodium hydroxide | 10 g | [OH-].[Na+]
solvent | water | 87.5 ml | O | H2O
product | 4-cyanomethyl-6-nitro-2H-1,4-benzoxazin-3(4H)-one | 1.3 g | C(#N)CN1C(COC2=C1C=C(C=C2)[N+](=O)[O-])=O | C10H7N3O4
